US05025031
2-[(Aminosulfonyl)oxy]benzoic acid
To a suspension of 2-[[(phenylmethyl)aminosulfonyl]oxy]benzoic acid (phenylmethyl)ester sodium salt (35.3 g, 0.076 mole) in methanol (500 ml) was added 6.2 ml of concentrated hydrochloric acid and 2 g of 5% palladium on carbon catalyst wetted with methanol (50 ml). The mixture was hydrogenated for 4 hr and filtered. The filtrate was concentrated to an oil and resuspended in THF. The solids were removed by filtration and the filtrate concentrated. The residue was triturated with 1,1,1-trichloroethane, giving 8.82 g of light purple solid. The solid was dissolved in THF, treated with activated charcoal, filtered, and concentrated again. The residue was recrystallized from 1,1,1-trichloroethane to give 6.5 g of white solid, mp 139°-140° C.

reactant | 2-[[(phenylmethyl)aminosulfonyl]oxy]benzoic acid (phenylmethyl)ester sodium salt | 0.076 mole, 35.3 g | [Na].C1(=CC=CC=C1)COC(C1=C(C=CC=C1)OS(=O)(=O)NCC1=CC=CC=C1)=O
reactant | hydrochloric acid | 6.2 ml | Cl | ClH
reactant | charcoal | C | CH4
solvent | methanol | 500 ml | CO | CH4O
catalyst | palladium on carbon | 2 g | [Pd] | Pd
solvent | THF | C1CCOC1 | C4H8O
solvent | methanol | 50 ml | CO | CH4O
product | 2-[(Aminosulfonyl)oxy]benzoic acid | 6.5 g | NS(=O)(=O)OC1=C(C(=O)O)C=CC=C1 | C7H7NO5S
